US05977152
(2R,3R)-2-(2,4-Difluorophenyl)-3-[[trans-2-[(E)-2-[4-(trifluoromethyl)phenyl]vinyl]-1,3-dioxan-5-yl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol
Reaction and treatment were carried out in the same manner as in Example 1 using (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane and trans-5-(acetylthio)-2-[(E)-2-[4-(trifluoromethyl)phenyl]vinyl]-1,3-dioxane to obtain the desired compound having a melting point of 73 to 75° C. in a yield of 70%.

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
reactant | trans-5-(acetylthio)-2-[(E)-2-[4-(trifluoromethyl)phenyl]vinyl]-1,3-dioxane | C(C)(=O)S[C@H]1CO[C@@H](OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F | C15H15F3O3S
product | (2R,3R)-2-(2,4-Difluorophenyl)-3-[[trans-2-[(E)-2-[4-(trifluoromethyl)phenyl]vinyl]-1,3-dioxan-5-yl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | yield of 70% | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)S[C@H]1CO[C@@H](OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F)O | C25H24F5N3O3S
